US07129238B2
(RS)-[(4-{[2-(2,6-difluoro-4-hydroxy-phenyl)-2-ethoxy-acetylamino]-methyl}-phenyl)-imino-methyl]-carbamic acid benzyl ester (100 mg) was dissolved in EtOH (2 ml). 1.25 M HCl in EtOH (0.1 ml) was added and the mixture was hydrogenated 1.5 h at 1 atm H2 in the presence of a catalytic amount of 10% Pd/C. After filtration of the catalyst the solvent was removed to obtain 71 mg (88%) of (RS)-N-(4-carbamimidoyl-benzyl)-2-(2,6-difluoro-4-hydroxy-phenyl)-2-ethoxy-acetamide hydrochloride. White powder. MS 364.3 ([M+H]+).

reactant | (RS)-[(4-{[2-(2,6-difluoro-4-hydroxy-phenyl)-2-ethoxy-acetylamino]-methyl}-phenyl)-imino-methyl]-carbamic acid benzyl ester | 100 mg | C(C1=CC=CC=C1)OC(NC(=N)C1=CC=C(C=C1)CNC(C(OCC)C1=C(C=C(C=C1F)O)F)=O)=O | C26H25F2N3O5
reactant | HCl | 1.25 M | Cl | ClH
solvent | EtOH | 2 ml | CCO | C2H6O
solvent | EtOH | 0.1 ml | CCO | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | (RS)-N-(4-carbamimidoyl-benzyl)-2-(2,6-difluoro-4-hydroxy-phenyl)-2-ethoxy-acetamide hydrochloride | 71 mg, 88% | Cl.C(N)(=N)C1=CC=C(CNC(C(OCC)C2=C(C=C(C=C2F)O)F)=O)C=C1 | InChI=1S/C18H19F2N3O3.ClH/c1-2-26-16(15-13(19)7-12(24)8-14(15)20)18(25)23-9-10-3-5-11(6-4-10)17(21)22;/h3-8,16,24H,2,9H2,1H3,(H3,21,22)(H,23,25);1H
